US04482560
2.0 Grams of 6-[3-(4-acetyl-4-phenyl-1-piperidyl)propoxy]-3,4-dihydrocarbostyril and 0.25 g of sodium hydride (50% in oil) were mixed in 30 ml of dimethylformamide and stirred for 1 hour, then 0.7 g of methyl iodide was added thereto and stirred at a room temperature for 12 hours. The reaction mixture was poured into 80 ml of saturated sodium chloride solution and the organic layer was extracted with chloroform and the chloroform layer was washed with water and dried. Then the chloroform was removed by distillation and the residue was crystallized with hexane. The crude crystals were recrystallized from ligroin to obtain 1.7 g of 1-methyl-6-[3-(4-acetyl-4-phenyl-1-piperidyl)propoxy]-3,4-dihydrocarbostyril as in the form of colorless needle-like crystals. Melting point: 115°-117° C.

reactant | 6-[3-(4-acetyl-4-phenyl-1-piperidyl)propoxy]-3,4-dihydrocarbostyril | C(C)(=O)C1(CCN(CC1)CCCOC=1C=C2CCC(NC2=CC1)=O)C1=CC=CC=C1 | C25H30N2O3
reactant | sodium hydride | 0.25 g | [H-].[Na+]
reactant | methyl iodide | 0.7 g | CI | CH3I
reactant | sodium chloride | 80 ml | [Cl-].[Na+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-methyl-6-[3-(4-acetyl-4-phenyl-1-piperidyl)propoxy]-3,4-dihydrocarbostyril | 1.7 g | CN1C(=O)CCC2=CC(=CC=C12)OCCCN1CCC(CC1)(C1=CC=CC=C1)C(C)=O | C26H32N2O3
